US08003649B2
Ethyl 3-(pyridin-4-yl)benzoate (1.46 g, 6.42 mmol), 5% palladium on carbon (50% wet) (0.301 g, 0.07 mmol) and citric acid monohydrate (0.601 g, 2.86 mmol) in a mixture of isopropanol (50 mL) and water (5 mL) were stirred under an atmosphere of hydrogen at 20 atmosphere and 70° C. for 15 hours. The reaction was cooled to room temperature, the catalyst removed by filtration and the solvent evaporated to give the crude product, which was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 2M ammonia in methanol to give ethyl 3-(piperidin-4-yl)benzoate (1.190 g, 79%) as a liquid.

reactant | Ethyl 3-(pyridin-4-yl)benzoate | 6.42 mmol, 1.46 g | N1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CC1 | C14H13NO2
reactant | citric acid monohydrate | 2.86 mmol, 0.601 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
catalyst | palladium on carbon | 0.07 mmol, 0.301 g | [Pd] | Pd
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
solvent | water | 5 mL | O | H2O
product | ethyl 3-(piperidin-4-yl)benzoate | 1.190 g, 79% | N1CCC(CC1)C=1C=C(C(=O)OCC)C=CC1 | C14H19NO2
